US07094801B2
Ex-89B: (2-Acetyl-5-methoxy-4-thiophen-2-yl-phenoxy)-acetonitrile (Ex-89A, 0.30 g, 1.1 mmol) was slurried in a mixture of water:isopropanol (3 mL, 2:1) to obtain a well-dispersed solution. Sodium azide (0.079 g, 1.2 mmol) followed by zinc bromide (0.25 g, 1.1 mmol) were added and the reaction was heated to reflux and vigorously stirred for 24 h. Additional solvent (1 mL, 1:1 water:isopropanol) was added after 10 h at reflux due to evaporation. The reaction was diluted with an ethyl acetate:tetrahydrofuran mixture (25 mL, 2:1) and a 3 N HCl solution (10 mL) and vigorously stirred until a homogenous solution was obtained (1 h). The layers were separated and the aqueous was extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried over sodium sulfate and concentrated to a dark green solid. Silica gel chromatography (15% methanol/methylene chloride containing 1% acetic acid) gave 0.22 g (65%) of 4-methoxy-2-(1H-tetrazol-5-ylmethoxy)-5-thiophen-2-yl-benzaldehyde as a pale green solid. 1H-NMR (300 MHz, DMSO-d6) δ 10.33 (s, 1H), 7.97 (s, 1H), 7.52–7.56 (m, 2H), 7.10–7.12 (m, 2H), 5.81 (s, 2H), 4.05 (s, 3H). MS (ESI) m/z=317 ([M+H]+, 100%), HRMS (ESI) Calcd. for C27H25NO7S: 317.0708. Found: 317.0712.

reactant | (2-Acetyl-5-methoxy-4-thiophen-2-yl-phenoxy)-acetonitrile | 1.1 mmol, 0.30 g | C(C)(=O)C1=C(OCC#N)C=C(C(=C1)C=1SC=CC1)OC | C15H13NO3S
reactant | isopropanol | 3 mL | C(C)(C)O | C3H8O
reactant | Sodium azide | 1.2 mmol, 0.079 g | [N-]=[N+]=[N-].[Na+]
reactant | HCl | 3 N, 10 mL | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc bromide | 1.1 mmol, 0.25 g | [Br-].[Zn+2].[Br-]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-methoxy-2-(1H-tetrazol-5-ylmethoxy)-5-thiophen-2-yl-benzaldehyde | 0.22 g, 65% | COC1=CC(=C(C=O)C=C1C=1SC=CC1)OCC1=NN=NN1 | C14H12N4O3S
